// vco_glitch_tb2.scs — fbank 单元切换 glitch 测量 (DUT=LC核+EN开关VAR单元)
// 协议: EN 在 TSW 切入(0->0.8), WON 后切出; 三窗相位拟合提取 kick
simulator lang=spectre

include "/home/lib/tsmc_12nm_installed/pdk/models/toplevel.scs" section=top_tt
include "glitch_dut.scs"

parameters TSW=60.031225n WON=5n TRISE=50p

Vvdd  (VDD 0)  vsource dc=0.8
Vss   (VSS 0)  vsource dc=0
Vvddc (VDDC 0) vsource type=pulse val0=0 val1=0.5 delay=0 rise=1n width=1m period=1m
Vc1 (VC1 0) vsource dc=0.3
Vc2 (VC2 0) vsource dc=0.5
Vsw (VSW 0) vsource dc=0.3
Ven (EN 0) vsource type=pulse val0=0 val1=0.8 delay=TSW width=WON rise=TRISE fall=TRISE period=10m

Xvco (VDDC VDDC VSS OUTP OUTN VC1 VC2 EN VSW) vco_glitch_dut

tran tran stop=100n maxstep=2p errpreset=liberal method=gear2only skipdc=yes ic="OUTP=0.45" ic="OUTN=0.0"
save OUTP OUTN EN VSW
saveOptions options save=selected rawfmt=psfascii
